US08541592B2
A 5 mL flask was charged flask with 2-((1S,3S)-3-(tert-butyldimethylsilyloxy)cyclopentylamino)-5-isopropyl-5-methylthiazol-4(5H)-one (0.470 g, 1.3 mmol) and tetrabutylammonium fluoride, (1.0M in THF (5.1 ml, 5.1 mmol) and allowed to stir at ambient temp. overnight. The crude reaction mixture was concentrated onto silica gel and the mixture was purified by column chromatography (2-6% MeOH/DCM) to give 2-((1S,3S)-3-hydroxycyclopentylamino)-5-isopropyl-5-methylthiazol-4(5H)-one as a white solid.

reactant | 2-((1S,3S)-3-(tert-butyldimethylsilyloxy)cyclopentylamino)-5-isopropyl-5-methylthiazol-4(5H)-one | 1.3 mmol, 0.470 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](CC1)NC=1SC(C(N1)=O)(C)C(C)C | C18H34N2O2SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 5.1 mmol, 5.1 ml | C1CCOC1 | C4H8O
product | 2-((1S,3S)-3-hydroxycyclopentylamino)-5-isopropyl-5-methylthiazol-4(5H)-one | O[C@@H]1C[C@H](CC1)NC=1SC(C(N1)=O)(C)C(C)C | C12H20N2O2S
